US06069157
4-(2-Bromofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethyl-phenyl)pyrazole
To a stirred solution of 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole (0.19 g) in tetrahydrofuran (5 ml) was added portionwise N-bromosuccinimide (0.093 g). The mixture was left at room temperature for 24 hours and then poured into ether (15 ml) and water (15 ml). The layers were separated and the organic layer was dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (10 g) eluted with hexane:dichloromethane (1:1). Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 111° C.

reactant | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole | 0.19 g | C(#N)C1=NN(C=C1C1=COC=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H6Cl2F3N3O
reactant | N-bromosuccinimide | 0.093 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ether | 15 ml | CCOCC | C4H10O
reactant | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-Bromofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethyl-phenyl)pyrazole | BrC=1OC=CC1C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C15H5BrCl2F3N3O
